US07435837B2
Treatment of (±)-[7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.75 g, 1.67 mmol) with sodium azide (0.43 g, 6.67 mmol) generally according to the procedure described for Intermediate 98 afforded 0.48 g (90%) of (±)-[7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl azide. Treatment of the azide with triphenylphosphine (0.393 g, 1.49 mmol) generally according to the procedure described for Example 21 afforded 0.348 g (71%) of (±)-1-[7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 206-208° C.; Anal. calcd. for C15H13Cl2NOHCl: C, 54.49; H, 4.27; N, 4.24. Found: C, 54.38; H, 4.36; N, 4.12.

reactant | (±)-[7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 1.67 mmol, 0.75 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2Cl)Cl | C22H18Cl2O4S
reactant | sodium azide | 6.67 mmol, 0.43 g | [N-]=[N+]=[N-].[Na+]
product | (±)-[7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl azide | 0.48 g, 90% | ClC1=C(C(=CC=C1)Cl)C1=CC=CC=2CC(OC21)CN=[N+]=[N-] | C15H11Cl2N3O
